US06008230
To a solution of 8-(2,6-dichlorobenzoylamino)-3-(phenoxycarbonyloxymethyl)-4-(imidazol-1-yl)quinoline (100 mg) in methanol (4 ml) was dropwise added a solution of 2M solution of methylamine in methanol (4 ml) under ice-cooling, and the mixture was stirred for 1 hour at ambient temperature. The mixture was concentrated in vacuo, and the residue was crystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(methylcarbamoyloxymethyl)quinoline (50 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-(phenoxycarbonyloxymethyl)-4-(imidazol-1-yl)quinoline | 100 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)COC(=O)OC2=CC=CC=C2)N2C=NC=C2)C(=CC=C1)Cl | C27H18Cl2N4O4
reactant | methylamine | CN | CH5N
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
product | 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(methylcarbamoyloxymethyl)quinoline | 50 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)COC(NC)=O)N2C=NC=C2)C(=CC=C1)Cl | C22H17Cl2N5O3
